US08202858B2
N-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-2-(1-methanesulfonyl-piperidin-4-yl)-acetamide
A solution of methanesulfonyl chloride (0.57 mg, 0.005 mmol) in dichloromethane (0.05 ml) was added to a solution of N-[4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-2-piperidin-4-yl-acetamide hydrochloride from Example E17 (2.57 mg, 0.005 mmol) in dichloro-methane (0.05 ml) and triethylamine (0.0035 ml). The mixture was stirred at room temperature for 1 h then sol-vents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=557.4

reactant | methanesulfonyl chloride | 0.005 mmol, 0.57 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-[4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-2-piperidin-4-yl-acetamide hydrochloride | Cl.CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3CCC(CC3)CNC(CC3CCNCC3)=O
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | dichloro-methane | 0.05 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.0035 ml | C(C)N(CC)CC | C6H15N
product | N-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-2-(1-methanesulfonyl-piperidin-4-yl)-acetamide | CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3CCC(CC3)CNC(CC3CCN(CC3)S(=O)(=O)C)=O | C28H40N6O4S
